US07842685B2
To a solution of N-methoxy-N-methyl-3-oxocyclopentanecarboxamide (2.43 g, 14.19 mmol) in 30 mL toluene under nitrogen was added deoxo-fluor® (7.05 mL, 38.3 mmol) followed by trifluoroacetic acid (0.219 mL, 2.84 mmol). The reaction was sealed and heated to 40° C. overnight. The reaction mixture was cooled, diluted with Et2O, cooled to 0° C. in an ice bath and quenched slowly with 75 mL 2N NaOH with rapid stirring. The aq. Layer was separated and extracted once with Et2O. The combined organics were washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Purified by silica gel chromatography (50% EA/hexanes) gave (rac)-3,3-difluoro-N-methoxy-N-methylcyclopentanecarboxamide as a light yellow oil. 1H NMR (400 MHz, CDCl3-d) δ ppm 3.71 (s, 3 H), 3.29-3.43 (m, 1 H), 3.21 (s, 3 H), 2.17-2.54 (m, 3 H), 1.93-2.15 (m, 3 H).

reactant | N-methoxy-N-methyl-3-oxocyclopentanecarboxamide | 14.19 mmol, 2.43 g | CON(C(=O)C1CC(CC1)=O)C | C8H13NO3
reactant | deoxo-fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | trifluoroacetic acid | 2.84 mmol, 0.219 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | (rac)-3,3-difluoro-N-methoxy-N-methylcyclopentanecarboxamide | FC1(CC(CC1)C(=O)N(C)OC)F | C8H13F2NO2
